US05578620
3-Dimethylaminophenoxymethyloxirane
A procedure similar to that described in Preparation 46 was repeated, except that 4.00 g of 3-dimethylaminophenol, 4.5 ml of epibromohydrin, 1.53 g of sodium hydride (as a 55% by weight dispersion in mineral oil) and 50 ml of dimethylformamide were used. The resulting crude product was purified by silica gel column chromatography, using a 1:4 by volume mixture of ethyl acetate and hexane as the eluent, to give 4.18 g of the title compound having an Rf value of 0.36 (on silica gel thin layer chromatography, using a 1:4 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | 3-dimethylaminophenol | 4.00 g | CN(C=1C=C(C=CC1)O)C | C8H11NO
reactant | epibromohydrin | 4.5 ml | C(Br)C1CO1 | C3H5BrO
reactant | sodium hydride | 1.53 g | [H-].[Na+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-Dimethylaminophenoxymethyloxirane | 4.18 g | CN(C1C(O1)COC1=CC=CC=C1)C | C11H15NO2
